US06608070B1
* 2-Bromoacetyl-4-methoxypyridine hydrobromide was prepared from 2-acetyl-4-methoxypyridine (B. Case et al., J. Org. Chem., 1961, 26, 4415) according to the procedure for preparing 2-bromoacetyl-4-methylpyridine hydrobromide described in step 2 of Example 31.

reactant | 2-acetyl-4-methoxypyridine | C(C)(=O)C1=NC=CC(=C1)OC | C8H9NO2
reactant | 2-bromoacetyl-4-methylpyridine hydrobromide | Br.BrCC(=O)C1=NC=CC(=C1)C
product | 2-Bromoacetyl-4-methoxypyridine hydrobromide | Br.BrCC(=O)C1=NC=CC(=C1)OC | InChI=1S/C8H8BrNO2.BrH/c1-12-6-2-3-10-7(4-6)8(11)5-9;/h2-4H,5H2,1H3;1H
